US08431695B2
Intermediate S S: Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride
To a suspension of tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidine-1-carboxylate in MeOH (8 mL) was added 4M HCl in dioxane (4 mL). The mixture was stirred at rt for 17 h. The mixture was concentrated to dryness to afford 1.5 g (100%) of the desired product. ES-MS m/z 424.21 [M+H]+, HPLC RT (min) 2.21.

reactant | tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidine-1-carboxylate | NC1=NC=NN2C1=C(C=C2C2CN(CCC2)C(=O)OC(C)(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C30H33N7O2
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 8 mL | CO | CH4O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride | 1.5 g, 100% | Cl.C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCCC2 | InChI=1S/C25H25N7.ClH/c26-25-24-21(12-23(32(24)29-16-28-25)19-7-4-10-27-13-19)18-8-9-20-15-31(30-22(20)11-18)14-17-5-2-1-3-6-17;/h1-3,5-6,8-9,11-12,15-16,19,27H,4,7,10,13-14H2,(H2,26,28,29);1H
